US08445480B2
Step A. 4-Hydroxy-3-nitro-5-[(1E)-prop-1-en-1-yl]benzonitrile
To a solution of 2.61 g of 4-hydroxy-3-iodo-5-nitrobenzonitrile in 315 ml of dioxane and 18 ml of water was added potassium carbonate (2.49 g), isopropenyl boronic acid (3.09 g), and tris(dibenzylideneacetone)dipalladium(0) (824 mg). This mixture was heated to reflux for 72 h. LC/MS analysis of the crude reaction mixture showed formation of a ca. 1:1 mixture of the desired product and the isopropenyl isomer. The mixture was cooled to room temperature, acidified by addition of 10 ml of acetic acid, loaded onto a silica gel column, eluted with ethyl acetate, and concentrated in vacuo. The residue was dissolved in dichloromethane and a small amount of ethyl acetate and was purified by column chromatography (2×) on a Biotage Horizon instrument (65i column), eluting with 1 column volume of 100% hexanes followed by a gradient of 0-20% ethyl acetate in hexanes over 10 column volumes to provide the title compound (1.78 g, 97%) contaminated with a small amount of dibenzylideneacetone. Mass spectrum (ESI) 203.1 (M−1).

reactant | 4-hydroxy-3-iodo-5-nitrobenzonitrile | 2.61 g | OC1=C(C=C(C#N)C=C1[N+](=O)[O-])I | C7H3IN2O3
reactant | potassium carbonate | 2.49 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropenyl boronic acid | 3.09 g | C(=C)(C)B(O)O | C3H7BO2
solvent | dioxane | 315 ml | O1CCOCC1 | C4H8O2
solvent | water | 18 ml | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 824 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-Hydroxy-3-nitro-5-[(1E)-prop-1-en-1-yl]benzonitrile | OC1=C(C=C(C#N)C=C1\C=C\C)[N+](=O)[O-] | C10H8N2O3
